US08664216B2
c) 3,4-Dihydrospiro[isochromene-1,4′-piperidine]
A solution of 1′-benzyl-3,4-dihydrospiro[isochromene-1,4′-piperidine] (0.40 g, 1.3 mmol) in ethanol (15 ml) was purged with argon. After addition of the palladium catalyst (10% Pd on activated charcoal, 0.14 g) the reaction vessel was filled with hydrogen gas. The mixture was stirred for 18 h at room temperature. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to give the title compound (0.23 g) as white solid with a purity of approx. 88% as assessed by 1H-NMR (contaminated with 1′-ethyl-3,4-dihydrospiro[isochromene-1,4′-piperidine]). MS m/e: 204 (M+H+).

reactant | 1′-benzyl-3,4-dihydrospiro[isochromene-1,4′-piperidine] | 1.3 mmol, 0.40 g | C(C1=CC=CC=C1)N1CCC2(CC1)OCCC1=CC=CC=C12 | C20H23NO
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium | 0.14 g | [Pd] | Pd
product | 3,4-Dihydrospiro[isochromene-1,4′-piperidine] | 0.23 g | N1CCC2(CC1)OCCC1=CC=CC=C12 | C13H17NO
